US05807864
3-Allylaminopropionic acid
To a cooled solution of 125 mL aqueous allylamine (60%), 3-chloropropionic acid (20 g) was added portionwise while stirring over 5 minutes. The mixture was stirred at ambient temperature for 72 hours. The mixture was then evaporated to a viscous oily residue (40 g). The product consisted of a 1:1 mixture of 3-allylaminopropionic acid and allylamine hydrochloride. This product mixture was used without further purification for the preparation of the title compound in step 2.

reactant | allylamine | 125 mL | C(C=C)N | C3H7N
reactant | 3-chloropropionic acid | 20 g | ClCCC(=O)O | C3H5ClO2
product | 3-Allylaminopropionic acid | C(C=C)NCCC(=O)O | C6H11NO2
